US04600788
The mixture consisting of 49.5 g of N-acetyl-m-anisidine, 72.3 cc of valeric acid chloride and 200 cc of methylene chloride is cooled to 0° C. 120 g of aluminum chloride are added little by little. The reaction mixture is refluxed for 2 hours with stirring, cooled, then poured in ice water. The resulting oily product is extracted with chloroform. The chloroform phase in turn is extracted with 2N sodium hydroxide solution which is then acidified. Thus, 24 g of 5-acetamido-2-valeryl phenol (MP 113° C.) are obtained.

reactant | N-acetyl-m-anisidine | 49.5 g | C(C)(=O)NC=1C=C(OC)C=CC1 | C9H11NO2
reactant | valeric acid chloride | 72.3 cc | C(CCCC)(=O)Cl | C5H9ClO
reactant | aluminum chloride | 120 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 200 cc | C(Cl)Cl | CH2Cl2
product | 5-acetamido-2-valeryl phenol | 24 g | C(C)(=O)NC=1C=CC(=C(C1)O)C(CCCC)=O | C13H17NO3
